Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]#[C:3][C:5]([C:6]([H:7])([H:8])[H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5]([C:6]([H:7])([H:8])[H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-1.7262032207099998
[H:1][O:2][C:3]=[C:4]=[C:5]([O:7][H:8])[C:9]([H:10])([H:11])[H:12].[H:6]>>[H:1][O:2][C:3]#[C:4][C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12],-3.59037954378
[O:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]([H:9])[H:10],1.3852644808
[C:5]([H:6])=[C:7]([H:8])[H:9].[O:1][C:2]#[C:3][O:4]>>[O:1][C:2](=[C:3]=[O:4])[C:5]([H:6])=[C:7]([H:8])[H:9],-5.24105976524
[C:14]([H:15])([H:16])[H:17].[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-3.97932651806
[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[H:11]>>[C:4]([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[H:11].[O:1]=[C:2][H:3],4.6515721041
[C:1]([C:2]#[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])([H:3])[H:4].[C:5]>>[C:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-3.2330337745
[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]=[C:4]([H:5])[H:6]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14],-2.23090408577
[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[H:12].[H:1][O:2][C:3]([H:4])([C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])=[C:13]([H:14])[H:15],1.82029309473
[H:1][C:2]([C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[C:2]([C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:1],4.90055636201
[H:10].[H:1][O:2][C:3][C@:4]([H:5])([O:6][C:7]([H:8])[H:9])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3][C@@:4]([H:5])([O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-4.28597162678
[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])[O:4]/[C:5]=[C:6](\[H:7])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:8],2.6366493831
[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:11].[H:1][O:2][C:3]([H:4])([O:5][H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:12]([H:13])([H:14])[H:15],1.7817758116900002
[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])=[O:4]>>[H:1][C:2]([H:3])[O:4][C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-1.59656481618
[H:1][O:2][C:3]([H:4])([H:5])[C:6]1([H:7])[C:8]([H:9])([H:10])[C:11][C:12]1([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])([H:5])[C:12]([C:11]([C:8]=[C:6]([H:7])[H:10])([H:9])[H:14])[H:13],-0.0451830175198
[H:1]/[C:2]([O:3][C:4]([H:5])([H:6])[H:7])=[C:8](/[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:4]([H:5])([H:6])[H:7].[H:1][C:2](=[O:3])[C:8]([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],2.56987297136
[C:9]([H:10])([H:11])[C:12]([H:13])=[C:14]([H:15])[H:16].[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[H:8]>>[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])=[C:14]([H:15])[H:16],-3.76472842418
[H:1][O:2][C:3][O:4][C:5]([H:6])[H:7]>>[C:5]([H:6])[H:7].[H:1][O:2][C:3]=[O:4],2.611817377
[C:6][C:7]([H:8])([H:9])[H:10].[H:1][C:2]=[C:3]([H:4])[H:5]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[H:10],-0.3542216963099999
[C:9]([H:10])[H:11].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C@:7]([H:8])([C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-5.0732942
[C:2]([H:3])=[C:4]([H:5])[C:6][O:7][C:8][H:9].[O:1]>>[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6]/[O:7][C:8][H:9],-7.03342514973
[H:1][O:2][C:3]([O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])=[C:12]([H:13])[H:14]>>[H:1][O:2][C:3]=[C:12]([H:13])[H:14].[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],4.39036012539
[H:1][C:2][O:11][C:8]([C:3][C:4]([H:5])([H:6])[H:7])([H:9])[H:10]>>[H:1][C:2]1=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11]1,-5.11438587
[H:1][C:2]#[C:3][C:4]([O:5][H:6])[C:7]([H:8])([H:9])[H:10]>>[C:4]([O:5][H:6])[C:7]([H:8])([H:9])[H:10].[H:1][C:2]#[C:3],5.38758413794
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][O:8][H:9]>>[H:6].[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:7]/[O:8][H:9],2.57991318029
[C:12]([H:13])([H:14])[H:15].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C@@:7]([H:8])([C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.3834368170299998
[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11]>>[C:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]#[C:10][H:11].[H:9],1.94466850225
